### PR TITLE
Removed `Sorry` from bitvec_AddSub_1202

### PR DESCRIPTION
**Pull request by AtticusKuhn**
I used theorems on BitVectors to prove the statement `bitvec_AddSub_1202`.

Tobias asked me to do a "day 1 patch", so I proved a simple theorem in `AliveStatements.lean`.

That theorem was:

```
w : ℕ
a b : BitVec w
⊢ (b ^^^ allOnes w) + a = a + (-1#w - b)
```

### CODE REVIEW

**Comment by AtticusKuhn** [comment]
I added the line


```lean
        try solve | (simp only   [← BitVec.allOnes_sub_eq_xor,  BitVec.negOne_eq_allOnes'];  ring_nf)
```

to the tactic 

`simp_alive_bitvec`. The earlier issue we were facing was caused by the fact that the namespace was not qualified, and macros execute in a new context due to hygene

File: SSA/Projects/InstCombine/AliveStatements.lean [hunk 1]
```diff
@@ -67,11 +67,8 @@ theorem bitvec_AddSub_1176 :
 
 theorem bitvec_AddSub_1202 :
     ∀ (e e_1 : LLVM.IntW w), LLVM.add (LLVM.xor e_1 (LLVM.const? (-1))) e ⊑ LLVM.sub (LLVM.sub e (LLVM.const? 1)) e_1 := by
-  simp_alive_undef
-  simp_alive_ops
-  simp_alive_case_bash
-  try alive_auto
-  all_goals sorry
+  alive_auto
+
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/AliveStatements.lean:71]: Can you rever these changes to avoid any diff in AliveStatements.lean?

File: SSA/Projects/InstCombine/TacticAuto.lean [hunk 2]
```diff
@@ -102,6 +104,7 @@ macro "alive_auto": tactic =>
         try (
           simp_alive_case_bash
           ensure_only_goal
+
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/TacticAuto.lean:106]: Can you revert this unrelated change?

File: SSA/Projects/InstCombine/TacticAuto.lean [hunk 3]
```diff
@@ -91,6 +91,8 @@ macro "simp_alive_bitvec": tactic =>
                      try cases BitVec.getLsb _ _ <;> try simp;
                      try cases BitVec.getLsb _ _ <;> try simp;)
         try solve | (simp [bv_ofBool])
+        try solve | (simp only   [← BitVec.allOnes_sub_eq_xor,  BitVec.negOne_eq_allOnes'];  ring_nf)
+
       )
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/TacticAuto.lean]: Use only one whitespace

```suggestion
        try solve | (simp [bv_ofBool])
        try solve | (simp only [← BitVec.allOnes_sub_eq_xor, BitVec.negOne_eq_allOnes']; ring_nf)
      )
```

**Comment by tobiasgrosser** [comment]
> I added the line
> 
> ```lean
>         try solve | (simp only   [← BitVec.allOnes_sub_eq_xor,  BitVec.negOne_eq_allOnes'];  ring_nf)
> ```
> 
> to the tactic
> 
> `simp_alive_bitvec`. The earlier issue we were facing was caused by the fact that the namespace was not qualified, and macros execute in a new context due to hygiene

Right. I should have thought of this.

**Comment by tobiasgrosser** [comment]
Let's see if with new permissions the CI goes through.

@AtticusKuhn, you may want to rename the commit message to sth like "feat: canonicalize BitVec to arithmetic before running ring_nf".

**Comment by AtticusKuhn** [comment]
Got it. I'll close this PR and create a new PR from a branch.
